US06376490B1
Phosphorus pentachloride (0.67 g, 3.22 mmol) was added to a stirred suspension of 6,7-dichloro-2,3-dimethoxy-5-(N-allylcarbamoyl)quinoxaline (Preparation 18, 1.0 g, 2.93 mmol) in toluene (40 mL) at room temperature and then heated under reflux for 1 hour. After being cooled, formylhydrazine (0.585 g, 8.79 mmol) and triethylamine (0.592 g, 8.79 mmol) were added and the mixture heated under reflux for 1 hour. After being cooled, the mixture was partitioned between ethyl acetate (60 mL) and 10% w/w aqueous potassium carbonate solution (60 mL). The phases were separated and the aqueous phase extracted with ethyl acetate (2×40 mL). The combined organic extracts were dried (MgSO4) and concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel, by gradient elution using toluene:ethyl acetate (1:0 changing to 1:1, by volume) to afford 6,7-dichloro-2,3-dimethoxy-5-(4-allyl-4H-1,2,4-triazol-3-yl)quinoxaline (0.112 g, 10%) as a white solid, mp 206-208° C.

reactant | Phosphorus pentachloride | 3.22 mmol, 0.67 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 6,7-dichloro-2,3-dimethoxy-5-(N-allylcarbamoyl)quinoxaline | 2.93 mmol, 1.0 g | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)C(NCC=C)=O | C14H13Cl2N3O3
reactant | formylhydrazine | 8.79 mmol, 0.585 g | C(=O)NN | CH4N2O
reactant | triethylamine | 8.79 mmol, 0.592 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | 6,7-dichloro-2,3-dimethoxy-5-(4-allyl-4H-1,2,4-triazol-3-yl)quinoxaline | 0.112 g, 10% | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)C1=NN=CN1CC=C | C15H13Cl2N5O2
